US07419979B2
5-Chloro-2-(piperazin-1-ylsulphonyl)-1H-indole (5.42 g, 18.1 mmol) was added to a solution of 4-carboxyphenyl boronic acid (3.00 g, 18.1 mmol) N,N-diisopropylethylamine (2.34 g, 18.1 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (5.81 g, 18.1 mmol) in 80 mL N,N-dimethylformamide, the mixture was stirred for 2 hours at room temperature. N,N-Dimethylformamide was removed in vacuo and the crude was purified by flash chromatography three times (dichloromethane/methanol, 100-98/2) to give 4-({4-[(5-chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)phenyl boronic acid as a colourless solid (56% yield).

reactant | 5-Chloro-2-(piperazin-1-ylsulphonyl)-1H-indole | 18.1 mmol, 5.42 g | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCNCC1 | C12H14ClN3O2S
reactant | 4-carboxyphenyl boronic acid | 18.1 mmol, 3.00 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 18.1 mmol, 5.81 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 4-({4-[(5-chloro-1H-indol-2-yl)sulphonyl]piperazin-1-yl}carbonyl)phenyl boronic acid | 56% yield | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)B(O)O | C19H19BClN3O5S
